US05646308
To 8.24 g of 2-fluoromethyl-2-methyl-6-nitro-2H-1-benzopyran dissolved in 100 ml of chloroform was added dropwise 2.7 ml of bromine with stirring under cooling with water, and the mixture was stirred for 20 hours at room temperature. After the solvent was removed, 100 ml of dioxane and 2N NaOH solution were added to the residue and stirred at room temperature for 16 hours. When ice-water was added to the reaction mixture, crystals were separated out. The crystals were collected by filtration, washed with water and dissolved in methylene chloride. It was washed with water and dried. The solvent was evaporated off to obtain 11.01 g of 4-bromo-2-fluoromethyl-2-methyl-6-nitro-2H-1-benzopyran with a melting point of 116°-117° C.

reactant | 2-fluoromethyl-2-methyl-6-nitro-2H-1-benzopyran | 8.24 g | FCC1(OC2=C(C=C1)C=C(C=C2)[N+](=O)[O-])C | C11H10FNO3
reactant | bromine | 2.7 ml | BrBr | Br2
reactant | water | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-fluoromethyl-2-methyl-6-nitro-2H-1-benzopyran | 11.01 g | BrC1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)CF | C11H9BrFNO3
